US04948804
1-benzoyl 5-(2-pentyloxy) pyrrolidin-2-one
12.4 cm3 of a 1.5M solution of butyllithium in hexane is added at -70° C. to a solution of 3.2 g of 5-(2-pentyloxy) pyrrolidin-2-one in 130 cm3 of tetrahydrofuran. The mixture is maintained at this temperature for 20 minutes, then a solution of 2.62 g of benzoyl chloride in 20 cm3 of tetrahydrofuran is added. The solution is returned to ambient temperature, concentrated and chromatographed on silica (eluent: hexane-ethyl acetate 7-3). 3.35 g of expected product is obtained.

reactant | butyllithium | C(CCC)[Li]
reactant | 5-(2-pentyloxy) pyrrolidin-2-one | 3.2 g | CC(CCC)OC1CCC(N1)=O | C9H17NO2
reactant | benzoyl chloride | 2.62 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 130 cm3 | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 cm3 | O1CCCC1 | C4H8O
product | 1-benzoyl 5-(2-pentyloxy) pyrrolidin-2-one | 3.35 g | C(C1=CC=CC=C1)(=O)N1C(CCC1OC(C)CCC)=O | C16H21NO3
